US05108486
To a stirred mixture of 18.8 g (0.0337 mole) of iron powder in 400 ml of concentrated hydrochloric acid, 20 ml of water, and 300 ml of ethanol was added slowly 28.5 g of 4-(2-chloro-4-nitrophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione. This mixture was heated at reflux for eight hours and then was cooled to room temperature and stirred for approximately 18 hours. The mixture was heated to reflux and was filtered hot. The filter cake was washed with methylene chloride. The wash and the filtrate were combined, and the solvents were removed by evaporation under reduced pressure, leaving a residue. This residue was purified by column chromatography on silica gel, eluting with diethyl ether to yield 23.4 g of 4-(4-amino-2-chlorophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione as a solid, mp 145°-147° C., Compound 94 of Table 1. The nmr spectrum was consistent with the proposed structure.

reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | 4-(2-chloro-4-nitrophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione | 28.5 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NN(C1=S)C)C(F)(F)F | C10H6ClF3N4O2S
solvent | hydrochloric acid | 400 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
catalyst | iron | 0.0337 mole, 18.8 g | [Fe] | Fe
product | 4-(4-amino-2-chlorophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione | 23.4 g | NC1=CC(=C(C=C1)N1C(=NN(C1=S)C)C(F)(F)F)Cl | C10H8ClF3N4S
